US07462639B2
N-(3,3-diethyl-1-isopropyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (2.2 g, 6.60 mmol) was dissolved in ethanol (50 ml). After addition of hydrochloric acid (25%, 3.2 ml, 33.0 mmol) the mixture was heated under reflux for 3 h. Most of the solvent was evaporated and water was added. The mixture was weakly alkalized by addition of aqueous NaOH solution. The mixture was extracted with ethyl acetate, the combined organic phases were dried over magnesium sulfate and the solvent was evaporated to yield 1.9 g 5-amino-3,3-diethyl-1-isopropyl-6-nitro-1,3-dihydro-indol-2-one (6.52 mmol, 99%).

reactant | N-(3,3-diethyl-1-isopropyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 6.60 mmol, 2.2 g | C(C)C1(C(N(C2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])C(C)C)=O)CC | C17H23N3O4
reactant | hydrochloric acid | 33.0 mmol, 3.2 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-amino-3,3-diethyl-1-isopropyl-6-nitro-1,3-dihydro-indol-2-one | 6.52 mmol, 1.9 g, 99% | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])C(C)C)=O)(CC)CC | C15H21N3O3
